US07323455B2
N-[4-Bromo-2-(1-hydroxy-1-methyl-ethyl)-phenyl]-2-chloro-acetamide
Prepared from 2-(2-amino-5-bromophenyl)propan-2-ol and chloro acetyl chloride generally according to the procedure described in example 1. An off-white solid: mp 133-134° C. 1H-NMR (DMSO-d6) δ 11.21 (s, 1H), 8.12 (d, J=8.6 Hz, 1H), 7.46 (dd, J=8.6, 2.3 Hz, 1H), 7.44 (d, J=2.3 Hz, 1H), 6.28 (s, 1H), 4.43 (s, 2H), 1.53 (s, 6H).

reactant | 2-(2-amino-5-bromophenyl)propan-2-ol | NC1=C(C=C(C=C1)Br)C(C)(C)O | C9H12BrNO
reactant | chloro acetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | N-[4-Bromo-2-(1-hydroxy-1-methyl-ethyl)-phenyl]-2-chloro-acetamide | BrC1=CC(=C(C=C1)NC(CCl)=O)C(C)(C)O | C11H13BrClNO2
